US08304557B2
(ii) 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide
To a solution of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide (200 mg, 0.486 mmol) in N,N-dimethylacetamide (2.0 mL) was added cyclopropanecarbonyl chloride (46 μL, 0.510 mmol), and the mixture was stirred at room temperature for 8 hr. The reaction mixture was diluted with ethyl acetate (100 mL), washed with 5% aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (NH silica gel, hexane/ethyl acetate=50/50→0/100), and fractions containing the desired product were concentrated under reduced pressure. The residue was triturated with ethyl acetate and diisopropyl ether to give the title compound (100 mg, 43%) as a colorless solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.486 mmol, 200 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)C1 | C24H21N5O2
reactant | cyclopropanecarbonyl chloride | 0.510 mmol, 46 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide | 100 mg, 43% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C28H25N5O3
